US05804601
7-(2-Hydroxy-1-naphthyl)-7-phenylheptanohydroxamic acid (Compound 1-1)
Hydroxylamine hydrochloride (1.4 g) was dissolved in water (14 ml) followed by addition of sodium hydroxide (93%, 2 g) and water (7 ml). To this mixture was added a solution of ethyl 7-(2-hydroxy-1-naphthyl)-7-phenylheptanoate (1.08 g) in tetrahydrofuran (3 ml) and the mixture was stirred for 4 hours. This reaction mixture was neutralized with 1N-HCl and extracted with ethyl acetate. The organic layer was washed, dried, and concentrated, and the residue was purified using a silica gel column (chloroform-methanol) to provide the title compound (0.4 g).

reactant | Hydroxylamine hydrochloride | 1.4 g | Cl.NO
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | ethyl 7-(2-hydroxy-1-naphthyl)-7-phenylheptanoate | 1.08 g | OC1=C(C2=CC=CC=C2C=C1)C(CCCCCC(=O)OCC)C1=CC=CC=C1 | C25H28O3
reactant | HCl | Cl | ClH
solvent | water | 14 ml | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
product | 7-(2-Hydroxy-1-naphthyl)-7-phenylheptanohydroxamic acid | 0.4 g | OC1=C(C2=CC=CC=C2C=C1)C(CCCCCC(=O)NO)C1=CC=CC=C1 | C23H25NO3
